US07956216B2
49A: Biphenyl-3-carboxylic acid 4-methyl-benzylamide
Using preparation method 1, 3-phenylbenzoic acid (125 mg, 0.63 mmol) was reacted with 4-methylbenzylamine (96 mg, 0.7 mmol). The product was purified by flash chromatography on SiO2 using CH2Cl2/hexanes 50:50 then CH2Cl2 100%. White crystals were obtained (115 mg, 58%). NMR 1H (ppm, CDCl3): 7.99 (s, 1H), 7.73-7.69 (m, 2H), 7.58 (dd, J3=7.0 Hz, J4=1.4 Hz, 2H), 7.48 (t, J3=7.8 Hz, 1H), 7.43 (t, J3=7.6 Hz, 2H), 7.35 (tt, J3=7.2 Hz, J4=2.4 Hz, 1H), 7.29 (d, J3=8.6 Hz, 2H), 6.88 (d, J3=8.7 Hz, 2H), 6.36 (br. s, 1H), 4.59 (d, J3=5.5 Hz, 2H), 3.79 (s, 3H).

reactant | 3-phenylbenzoic acid | 0.63 mmol, 125 mg | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O2
reactant | 4-methylbenzylamine | 0.7 mmol, 96 mg | CC1=CC=C(CN)C=C1 | C8H11N
product | Biphenyl-3-carboxylic acid 4-methyl-benzylamide | CC1=CC=C(CNC(=O)C=2C=C(C=CC2)C2=CC=CC=C2)C=C1 | C21H19NO
